US04482710
7-Isobutyrylamino-3-methoxymethyl-3-cephem-4-carboxylic acid
2 g of 3-acetoxymethyl-7-isobutyrylamino-3-cephem-4-carboxylic acid and 490 mg of sodium hydrogen carbonate were dissolved in 21 ml of 66% v/v aqueous methanol, and 30 g of calcium chloride dihydrate were added. The resulting mixture was stirred at 70° C. for 90 minutes, after which it was cooled and 40 ml of water and 50 ml of ethyl acetate were added. The aqueous phase was adjusted to a pH value of 7-8 and separated, after which it was acidified with hydrochloric acid and extracted three times, each time with 50 ml of ethyl acetate. The extracts were combined, and the combined extracts were washed with an aqueous solution of sodium chloride, dehydrated over anhydrous magnesium sulphate and concentrated by evaporation under reduced pressure. The residue was dissolved in a small volume of ethyl acetate, and insolubles were filtered off. Diisopropyl ether was added to the filtrate, and the resulting precipitates were collected by filtration and dried, giving 800 mg (yield 43.5%) of the title compound.

reactant | 3-acetoxymethyl-7-isobutyrylamino-3-cephem-4-carboxylic acid | 2 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(C)C)=O)=O | C14H18N2O6S
reactant | sodium hydrogen carbonate | 490 mg | C(O)([O-])=O.[Na+]
reactant | calcium chloride dihydrate | 30 g | O.O.[Cl-].[Ca+2].[Cl-]
reactant | water | 40 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 7-Isobutyrylamino-3-methoxymethyl-3-cephem-4-carboxylic acid | 800 mg, yield 43.5% | C(C(C)C)(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)O)C1=O | C13H18N2O5S
